US07582668B2
N-{(1S)-2-[4-(8-Bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}-3-chloro-4-[(1-methylethyl)oxy]benzamide
A solution of 1,1-dimethylethyl {(1S)-2-[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2yl)methyl]ethyl]carbamate (3.5 mmol) and hydrogen chloride in 1,4-dioxane (20 mL, 4.0 M) was stirred for 1 h at RT. The reaction was concentrated to dryness and redissolved in N,N-dimethylformamide (35 mL). Added to the solution was diisopropylethylamine (10.5 mmol) and pentafluorophenyl 3-chloro-4-[(1-methylethyl)oxy]benzoate (3.8 mmol), followed by stirring at RT for half an hour. The reaction was dissolved in ethyl acetate (80 mL) and washed with water (3×50 mL) and brine (1×50 mL). To the separated organic layer was added hexanes (150 mL) upon which a precipitate was formed, filtered, and dried to afford the title compound as an off white solid (65%). ESMS [M+H]+: 672.2.

reactant | 1,1-dimethylethyl {(1S)-2-[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2yl)methyl]ethyl]carbamate | 3.5 mmol | BrC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)C[C@@H](CN2C(C1=CC=CC=C1C2=O)=O)NC(OC(C)(C)C)=O | C29H27BrN4O4
reactant | hydrogen chloride | Cl | ClH
reactant | diisopropylethylamine | 10.5 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pentafluorophenyl 3-chloro-4-[(1-methylethyl)oxy]benzoate | 3.8 mmol | ClC=1C=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC1OC(C)C | C16H10ClF5O3
solvent | 1,4-dioxane | 4.0 M, 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | N-{(1S)-2-[4-(8-Bromoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}-3-chloro-4-[(1-methylethyl)oxy]benzamide | BrC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)C[C@@H](CN2C(C1=CC=CC=C1C2=O)=O)NC(C2=CC(=C(C=C2)OC(C)C)Cl)=O | C34H28BrClN4O4
